US06403055B1
A) L-isoleucine 1,1-dimethylethylester
To an ice-bath cooled slurry of L-isoleucine (301.0 g; 2.29 mol) in tert-butyl acetate (2.5 L), 70% aq HClO4 (208 mL, 2.43 mol) was slowly added. The mixture was kept stirring for 10 days at room temperature. Then water (0.5 L) was poured into, followed by cooling in an ice bathand addition of NaOH pellets (100 g) and Na2CO3 (110 g) so that pH turned to basic. The mixture was extracted with EtOAc (4×0.5 L); the combined organic phases were washed with water (2×0.5 L) and brine (0.3 L), at last dried over Na2SO4. After careful removal of solvents in vacuo, the desired compound was obtained (262.2 g; 1.40 mol) and stored at −18° C. No further purification was required on the basis of TLC and NMR data. Yield 61%.

reactant | L-isoleucine | 2.29 mol, 301.0 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | water | 0.5 L | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | Na2CO3 | 110 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl acetate | 2.5 L | C(C)(=O)OC(C)(C)C | C6H12O2
product | L-isoleucine 1,1-dimethylethylester | Yield 61% | CC(C)(C)OC([C@@H](N)[C@@H](C)CC)=O | C10H21NO2
